US08008298B2
[2-(4-Methylamino-phenyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-(1-methyl-cyclohexyl)-methanone was prepared starting from (2-bromo-5H-pyrrolo[2,3-b]pyrazin-7-yl)-(1-methyl-cyclohexyl)-methanone and methyl-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-amine following general procedures as described in these Examples. MP 273-275° C., M+H=349.

reactant | (2-bromo-5H-pyrrolo[2,3-b]pyrazin-7-yl)-(1-methyl-cyclohexyl)-methanone | BrC=1N=C2C(=NC1)NC=C2C(=O)C2(CCCCC2)C | C14H16BrN3O
reactant | methyl-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-amine | CNC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C13H20BNO2
product | [2-(4-Methylamino-phenyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-(1-methyl-cyclohexyl)-methanone | CNC1=CC=C(C=C1)C=1N=C2C(=NC1)NC=C2C(=O)C2(CCCCC2)C | C21H24N4O
